US07741327B2
A mixture of (L)-leucine methyl ester hydrochloride (0.68 g, 3.74 mmol) in acetonitrile (9.35 mL) was treated with N,N-diisopropylethylamine (0.60 mL, 3.67 mmol). After addition was complete, the mixture was stirred at 60° C. for 1 h. At this time, the reaction was cooled to 25° C., treated with N,N-diisopropylethylamine (0.60 mL, 3.67 mmol) and acetonitrile (9.35 mL) and then heated to 80° C. Upon reaching 80° C., the reaction was treated with a solution of 4-bromo-3-(naphthalen-1-yloxy)-but-2-enoic acid ethyl ester (1.14 g, 3.4 mmol) in acetonitrile (8.5 mL). After the addition was complete, the reaction mixture was heated to 100° C. where it stirred overnight. At this time, the reaction mixture was cooled to 25° C. and was concentrated in vacuo. The residue was diluted with dichloromethane (75 mL) and was washed with a 2N aqueous hydrochloric acid solution (1×100 mL), a saturated aqueous sodium bicarbonate solution (1×100 mL), a saturated aqueous sodium chloride solution (1×100 mL), dried over sodium sulfate, filtered and concentrated in vacuo. Purification by Analogix flash chromatography (40 g, 30% ethyl acetate/hexanes) afforded (S)-4-methyl-2-[4-(naphthalen-1-yloxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-pentanoic acid methyl ester (0.38 g, 32%) as a light orange oil: HR-ES-MS m/z calculated for C21H23NO4 [M+H]+ 354.1700, observed 354.1700; 1H NMR (300 MHz, DMSO-d6) δ ppm 0.88 (d, J=6.3 Hz, 3H), 0.95 (d, J=6.3 Hz, 3H), 1.42-1.72 (m, 2H), 1.74-1.90 (m, 1H), 3.67 (s, 3H), 4.38 (s, 2H), 4.69-4.77 (m, 1H), 4.75 (s, 1H), 7.51 (d, J=6.9 Hz, 1H), 7.54-7.67 (m, 3H), 7.91 (d, J=8.2 Hz, 1H), 7.98-8.08 (m, 2H).

reactant | (L)-leucine methyl ester hydrochloride | 3.74 mmol, 0.68 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | N,N-diisopropylethylamine | 3.67 mmol, 0.60 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-diisopropylethylamine | 3.67 mmol, 0.60 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-bromo-3-(naphthalen-1-yloxy)-but-2-enoic acid ethyl ester | 3.4 mmol, 1.14 g | C(C)OC(C=C(CBr)OC1=CC=CC2=CC=CC=C12)=O | C16H15BrO3
solvent | acetonitrile | 9.35 mL | C(C)#N | C2H3N
solvent | acetonitrile | 8.5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 9.35 mL | C(C)#N | C2H3N
product | (S)-4-methyl-2-[4-(naphthalen-1-yloxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-pentanoic acid methyl ester | 0.38 g, 32% | COC([C@H](CC(C)C)N1C(C=C(C1)OC1=CC=CC2=CC=CC=C12)=O)=O | C21H23NO4
